US06569600B2
First, the intermediate product 2,3-diphenylnorbornadiene was prepared as follows: A solution of 2,3-bis(tert-butylsulfonyl)norbornadiene (prepared according to the procedure of Riera, et al. Tetrahedron Letters 1990, volume 31, page 2173) (5.50 g, 19 mmol) in dry tetrahydrofuran (50 mL) was treated with 95 mmol of phenyl lithium at −78° C. under an argon atmosphere. After allowing the reaction mixture to gradually warm to room temperature overnight, methanol (25 mL) was added, and the solution was partially concentrated at reduced pressure. The resulting mixture was mixed with water (50 mL) and extracted with dichloromethane (2×50 mL). The combined organic extracts were dried over magnesium sulfate and concentrated to deposit a brown oil. The intermediate product was purified by column chromatography (silica gel, hexane/dichloromethane), followed by recrystallization from methanol to provide 1.25 g (27% yield) of 2,3-diphenylnorbornadiene as a white solid. 1H NMR (CDCl3) δ2.10 (m, 1 H), 2.40 (m, 1 H), 3.92 (m, 2 H), 7.01 (t, 2 H), 7.2-7.3 (m, 10 H).

reactant | 2,3-bis(tert-butylsulfonyl)norbornadiene | C(C)(C)(C)S(=O)(=O)C1=C2CCC(=C1S(=O)(=O)C(C)(C)C)C2 | C15H24O4S2
reactant | phenyl lithium | 95 mmol | C1(=CC=CC=C1)[Li]
reactant | methanol | 25 mL | CO | CH4O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2,3-diphenylnorbornadiene | 1.25 g, 27% yield | C1(=CC=CC=C1)C1=C2CCC(=C1C1=CC=CC=C1)C2 | C19H16
